US09302988B2
Step 3: (E)-4-Chloro-2-fluoro-1-(2-tosylvinyl)benzene
Crude 4-chloro-2-fluoro-1-(1-iodo-2-tosylethyl)benzene (51.8 g, max. 154 mmol) was dissolved in a mixture of Et2O (250 mL), THF (50 mL) and EtOAc (80 mL) after some warming. Carefully, Et3N (23.6 mL, 170 mmol) was added in 2 mL portions at room temperature. The mixture was stirred for 90 min at room temperature. Aqueous 1 M NaHSO4 (200 mL) and H2O (100 mL) were added and the organic layer was separated. The aqueous layer was extracted with EtOAc (50 mL). The combination of organic layers was washed with saturated aqueous NaHCO3 and with brine, dried (Na2SO4) and filtered. The solvent was evaporated in vacuo to give a yellow solid. The residue was triturated in MeOH (50 mL), filtration and air-drying provided 23.04 g (48% over two steps) of the desired product as a white solid.

reactant | 4-chloro-2-fluoro-1-(1-iodo-2-tosylethyl)benzene | 154 mmol, 51.8 g | ClC1=CC(=C(C=C1)C(CS(=O)(=O)C1=CC=C(C)C=C1)I)F | C15H13ClFIO2S
reactant | Et3N | 170 mmol, 23.6 mL | CCN(CC)CC | C6H15N
reactant | NaHSO4 | 1 M, 200 mL | OS(=O)(=O)[O-].[Na+]
reactant | H2O | 100 mL | O | H2O
solvent | Et2O | 250 mL | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | (E)-4-Chloro-2-fluoro-1-(2-tosylvinyl)benzene | ClC1=CC(=C(C=C1)\C=C\S(=O)(=O)C1=CC=C(C)C=C1)F | C15H12ClFO2S
